US06410563B1
To a solution of N-methylimidazole (10.0 g, 122 mmol) in 500 mL THF at −78° C. was added n-butyllithium (2.5M in hexanes, 48.7 ml, 118 mmol) dropwise and the resulting solution was stirred at −78° C. for 30min. 4-(Methylthio)benzaldehyde (14.73 ml, 110 mmol) was then added at −78° C. and the mixture was stirred until completion by TLC, and quenched with NH4Cl (sat). The mixture was then diluted with EtOAc, extracted and washed (NaHCO3 (sat.), brine). The organic phase was dried over MgSO4, filtered and concentrated. Crystalisation (EtOAc/Hexanes) yielded (1-Methyl-1H-imidazol-2-yl)[4-(methylthio)phenyl]methanol.

reactant | N-methylimidazole | 122 mmol, 10.0 g | CN1C=NC=C1 | C4H6N2
reactant | n-butyllithium | 118 mmol, 2.5M, 48.7 ml | C(CCC)[Li]
reactant | 4-(Methylthio)benzaldehyde | 110 mmol, 14.73 ml | CSC1=CC=C(C=O)C=C1 | C8H8OS
solvent | THF | 500 mL | C1CCOC1 | C4H8O
product | (1-Methyl-1H-imidazol-2-yl)[4-(methylthio)phenyl]methanol | CN1C(=NC=C1)C(O)C1=CC=C(C=C1)SC | C12H14N2OS
